US06054412
3-(4-Chloro-3-nitrophenyl)-1-methyl-4,5-di(trifluoromethyl)-1H-pyrazole (No. Ia.003)
9 g (27 mmol) of 3-(4-chlorophenyl)-1-methyl-4,5-di(trifluoromethyl)-1H-pyrazole were added at (-40)° C. to 100 ml of concentrated nitric acid, whereupon the mixture was stirred for 2 hours at this temperature. The solution, which was subsequently warmed to 0° C., was treated with ice-water. The product was subsequently extracted with methyl tert-butyl ether. The organic phase was washed with water, dried over magnesium sulfate and concentrated.

reactant | 3-(4-chlorophenyl)-1-methyl-4,5-di(trifluoromethyl)-1H-pyrazole | 27 mmol, 9 g | ClC1=CC=C(C=C1)C1=NN(C(=C1C(F)(F)F)C(F)(F)F)C | C12H7ClF6N2
reactant | nitric acid | 100 ml | [N+](=O)(O)[O-] | HNO3
product | 3-(4-Chloro-3-nitrophenyl)-1-methyl-4,5-di(trifluoromethyl)-1H-pyrazole | ClC1=C(C=C(C=C1)C1=NN(C(=C1C(F)(F)F)C(F)(F)F)C)[N+](=O)[O-] | C12H6ClF6N3O2
